US08372845B2
Step 4: Synthesis of 3-(2-Dipropylcarbamoylmethoxycarbonyl-ethylsulfamoyl)-benzoic acid
A solution of benzyl 3-(2-Dipropylcarbamoylmethoxycarbonyl-ethylsulfamoyl)-benzoic acid benzyl ester (5 g, 33.25 mmol) in isopropyl acetate (82 ml) was treated with 10% Pd/C (0.84 g, 50% wet), and stirred under H2 (3 atm) overnight. The catalyst was removed by filtration. To the filtrate was added 10% Pd/C (1.68 g, 50% wet), and the reaction stirred under H2 (3 atm) for 18 h. The catalyst was removed by filtration and further 10% Pd/C (1.68 g, 50% wet) was added and the reaction stirred under H2 (1 atm) for 18 h. The catalyst was removed by filtration and washed with isopropyl acetate (20 ml). The combined filtrates were concentrated in vacuo and heptane was added to the solution and stirred at RT for 2 hr then −2° C. for 4 h. The solid which formed was collected by filtration and dried under vacuum at 40° C. to afford the title compound; LC-MS; 415.1 [M+H]+, Method (i).

reactant | benzyl 3-(2-Dipropylcarbamoylmethoxycarbonyl-ethylsulfamoyl)-benzoic acid benzyl ester | 33.25 mmol, 5 g | C(C1=CC=CC=C1)OC(C1=C(C(=CC=C1)S(NCCC(=O)OCC(N(CCC)CCC)=O)(=O)=O)CC1=CC=CC=C1)=O | C32H38N2O7S
solvent | isopropyl acetate | 82 ml | C(C)(=O)OC(C)C | C5H10O2
catalyst | Pd/C | 0.84 g | [Pd] | Pd
product | 3-(2-Dipropylcarbamoylmethoxycarbonyl-ethylsulfamoyl)-benzoic acid | C(CC)N(C(=O)COC(=O)CCNS(=O)(=O)C=1C=C(C(=O)O)C=CC1)CCC | C18H26N2O7S
